US08309723B2
Preparation of 6-(5-chloropyridin-2-yl)-5,7-dioxo-5,6-dihydropyrrolo-[3,4-b]-pyrazine
3-(5-Chloropyridin-2-yl)-carbamoylpyrazine-2-carboxylic acid (100 g) was suspended in 500 ml dichloromethane. The suspension was refluxed azeotropically for 60 min. The mixture was cooled to 25-30° C. and dimethyl formamide (2.6 gm) was added followed by addition of thionyl chloride (72 g) in 45-60 min at 25-30° C. The resulting mixture was refluxed till completion of reaction. The reaction mixture was concentrated to dryness at atmospheric pressure. Cooled the solid to 20-25° C. and 500 ml chilled water was added Cooled the slurry to 20-25° C. and stirred for 30 min. Slurry was filtered and washed with 200 ml water. The solid was dried at 60-70° C. to obtain 88 g of title compound.

reactant | 3-(5-Chloropyridin-2-yl)-carbamoylpyrazine-2-carboxylic acid | 100 g | ClC=1C=CC(=NC1)C=1C(=NC=C(N1)C(N)=O)C(=O)O | C11H7ClN4O3
reactant | dimethyl formamide | 2.6 gm | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 72 g | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 6-(5-chloropyridin-2-yl)-5,7-dioxo-5,6-dihydropyrrolo-[3,4-b]-pyrazine | 88 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1=O)=O | C11H5ClN4O2
